US09376700B2
(R)-2-((tert-butoxycarbonyl)amino)-3-mercaptopropanoic acid (Boc-L-Cys-OH) (110 mg, 0.5 mmol) was dissolved in H2O/THF (50% v/v, 20 mL). To the solution was added sodium thiomethoxide (350 mg, 5.0 mmol) at 0° C. Then, a solution of iodine in 95% EtOH was added dropwise until the color of the reaction system changed from colorless to brown. The mixture was stirred for 5.5 h with warming to room temperature. After removing THF under reduced pressure, reaction mixture was neutralized by 1 N HCl aq. until pH 2-3. The solution was extracted with EtOAc. The extract was washed with saturated NaS2O4 aq. and brine, and dried over MgSO4. Concentration under reduced pressure followed by flash chromatography over silica gel in EtOAc/Hexanes/AcOH (75:25:1) gave Boc-L-Csm-OH (90.8 mg, 68% yield). 1H NMR (360 MHz, CDCl3) δ 5.34 (s, 1H), 4.63 (br, s, 1H), 3.26-3.16 (m, 2H), 2.43 (m, 3H), 1.47 (s, 9H); LRMS (ESI) m/z calcd for C9H18NO4S2 (M+H)+ 268.1. found 268.2.

reactant | (R)-2-((tert-butoxycarbonyl)amino)-3-mercaptopropanoic acid | 0.5 mmol, 110 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CS | C8H15NO4S
reactant | sodium thiomethoxide | 5.0 mmol, 350 mg | C[S-].[Na+]
reactant | iodine | II | I2
reactant | HCl | 1 N | Cl | ClH
solvent | H2O THF | 20 mL | O.C1CCOC1
solvent | EtOH | CCO | C2H6O
product | (R)-2-((tert-butoxycarbonyl)amino)-3-(methyldisulfanyl)propanoic acid | 90.8 mg, 68% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CSSC | C9H17NO4S2
